US04349547
To a stirred mixture of 9.0 g of 1-benzhydrylazetidine-2-methanol hydrochloride, 26.1 ml of triethylamine and 60 ml of dimethylsulfoxide were added dropwise a solution of 14.9 g pyridine-sulfur trioxide complex in 60 ml of dimethylsulfoxide. The mixture was stirred at room temperature for 30 minutes, after which it was poured into ice water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, followed by removal of the solvent by distillation. The residue was recrystallized from n-hexane to yield 1-benzhydrylazetidine-2-carbaldehyde as colorless crystals melting at 88°-89° C.

reactant | 1-benzhydrylazetidine-2-methanol hydrochloride | 9.0 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)CO
reactant | triethylamine | 26.1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 1-benzhydrylazetidine-2-carbaldehyde | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C=O | C17H17NO
